Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ pAF(coumadin), HF,
cerebellar CVA, HTN, HLD, T2DM presenting with dizziness in
setting of poor oral intake.  

Pt had decreased appetite this morning and felt "off." Went
outside to water the plants in the heat, and following watering
the plants, he came inside and felt fatigue and dizzy in the
setting of the heat and not eating that morning.  Blood pressure
90/60 (usually higher than that).  

In the ED:
- VS: 98.9 100/50 92 16 100RA
- Exam: crackles R base
- EKG: Afib, ventricular rate 74, LAD, early R wave transition,
LAFB,  Q waves in inferior leads, TWI aVR, V1, V2. Now in afib
when compared from prior EKG dated ___.
- Lab: WBC 3.8 (w/ ), H/H ___ (at b/l), INR 2.7, BUN/Cr
___ (b/l 0.8-1), ___ 11388 (, TropT 0.06,
- CT head: encephalomalacia in right cerebellum, no acute
intracranial process, chronic microangiopathy
- CXR: Hyperinflated lungs are compatible with COPD. Left 
basilar
opacities likely represent atelectasis. 
- Received: Lasix 40mg IV, ASA 324, CTX/azithro

On the floor, patient reports that he feels improved.  No weight
change recently.  Stable 2 pillow orthopnea.  No PND.  No SOB. 
No chest pain or palpitations. No dietary or medication
non-compliance. No fevers or chills.  No nausea, abdominal pain,
vomiting, urinary symptoms.  No neurological symptoms like
numbness/tingling, weakness, imbalance.   
 
Past Medical History:
HTN
DMT2
HLD
Atrial fibrillation
Cerebellar CVA

 
Social History:
___
Family History:
No known history of stroke
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals:  98.0 PO 104/63 R Lying 80 18 92 RA  
General: NAD, lying in bed, head of the bed slightly elevated
HEENT: EOMI, MMM
Neck: supple w/o LAD
CV: RRR, II/VI murmur heard at the upper sternal borders. JVD is
elevated to the angle of the mandible.
Lungs: Bilateral crackles in the lower lung fields
Abdomen: non-tender, non-distended.
Ext: trace/1+ pitting 
Neuro: CN II-XII intact. 
Skin:  Small ecchymoses noted on R elbow.

DISCHARGE PHYSICAL EXAM:  
Vitals: 98.4 PO 96/55 70 16 94 Ra Weight 60.7 kg
General: NAD, sitting up in chair
HEENT: EOMI, MMM
Neck: supple w/o LAD
CV: RRR, II/VI murmur heard at the upper sternal borders. JVD is
elevated to the angle of the mandible.
Lungs: CTAB
Abdomen: non-tender, non-distended.
Ext: 1+ pitting edema RLE > LLE 
Neuro: A&O x1, CN II-XII intact. 
Skin:  Small ecchymoses noted on R elbow.
 
 
Pertinent Results:
___ 04:20PM BLOOD ___
___ 04:20PM BLOOD cTropnT-0.06*
___ 07:20AM BLOOD CK-MB-3 cTropnT-0.06*
___ 04:20PM BLOOD Glucose-152* UreaN-24* Creat-1.3* Na-139 
K-4.0 Cl-100 HCO3-25 AnGap-18
___ 05:50AM BLOOD Glucose-119* UreaN-23* Creat-1.4* Na-138 
K-4.5 Cl-100 HCO3-25 AnGap-18
___ 04:20PM BLOOD WBC-3.8* RBC-3.10* Hgb-10.4* Hct-31.0* 
MCV-100* MCH-33.5* MCHC-33.5 RDW-13.8 RDWSD-50.4* Plt ___
___ 05:50AM BLOOD WBC-4.1 RBC-2.80* Hgb-9.5* Hct-28.6* 
MCV-102* MCH-33.9* MCHC-33.2 RDW-13.9 RDWSD-51.5* Plt ___ w/ pAF(coumadin), HF, cerebellar CVA, HTN, HLD, T2DM 
presenting with dizziness in setting of poor oral intake, viral 
symptoms and strenuous activity. 

ACTIVE ISSUES 
=============
#Dizziness. Episode consistent with hypovolemia given history 
(poor oral intake, being outside in the heat, relative 
hypotension). He received 500 cc NS and lytes repletion upon 
admission. Patient also seen by neurology and he received a CTA 
brain which was unremarkable for a stroke. His magnesium was 
also low at 0.8, which can contribute to his symptoms of 
weakness and dizziness. The most likely etiology is likely 
hypovolemia given quick resolution of his symptoms. Following 
admission patient remained asymptomatic.

#CKD. Cr 1.3 at baseline. We initially thought his admission ___ 
of 1.3 represented an ___. However, per PCP ___ office, 
patient had Cr 1.4 in ___, 1.3 in ___. We believe his Cr to 
now be at baseline given these lab findings. Told 
patient to stop lasix until he sees his PCP again and has a lab 
check. 

#HFpEF. Elevated BNP on admission however without clear symptoms 
of hypervolemia. Creatinine bumped with diuresis. Lungs clear 
with stable peripheral edema, not felt to have acute HFpEF 
exacerbation. Due to soft blood pressure and stable volume 
status, lasix and valsartan was held prior to discharge. Can 
consider restarting based on blood pressure and volume status on 
PCP ___. 

#Hypomagnesemia. Mg 0.8 on admission, given magnesium repletion 
and monitored.

#Troponinemia. Low suspicion for ACS. Troponin 0.06 upon 
admission. EKG without ischemic changes and denied angina 
symptoms. Repeat Troponin remained stable with CK MB 3. 

#Paroxysmal atrial fibrillation. CHADSVASC 7. Continued on home 
dose metoprolol and warfarin. Remained therapeutically 
anticoagulated during hospital course.

#Hypertension: Held his home losartan given history of dizziness 
and normotension.

CHRONIC/STABLE ISSUES 
=====================
#Prior CVA: cont home atorvastatin
#GERD: cont home omeprazole
#DM: held home metformin, ISS while inpatient. Resume metformin 
as outpatient.
#Mediastinal LAD. Seen on CTA upon admission, follow up after 
discharge. 

TRANSITIONAL ISSUES:
====================
- HELD losartan and Lasix this admission
[ ] At first PCP ___, please check Chem 7 to monitor 
Creatinine. Also please check magnesium given very low Mg levels 
upon admission
[ ] At first PCP ___, consider restarting Lasix based on 
volume exam
[ ] At first PCP ___, consider restarting valsartan based 
on blood pressure
[ ] On patient's CTA brain, the radiologist commented on some 
prominent mediastinal lymphadenopathy. Consider follow up with 
repeat imaging or biopsy.

Discharged with ___ for skilled nursing (weight and blood 
pressure monitoring) along with home ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 40 mg PO DAILY 
2. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
3. Omeprazole 20 mg PO DAILY 
4. Metoprolol Tartrate 50 mg PO BID 
5. Vitamin B Complex 1 CAP PO DAILY 
6. Valsartan 80 mg PO DAILY 
7. Warfarin 5 mg PO DAILY16 
8. Ferrous Sulfate 325 mg PO DAILY 
9. Atorvastatin 40 mg PO QPM 
10. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  Docusate Sodium 100 mg PO BID  
3.  Ferrous Sulfate 325 mg PO DAILY  
4.  MetFORMIN XR (Glucophage XR) 500 mg PO BID  
5.  Metoprolol Tartrate 50 mg PO BID  
6.  Omeprazole 20 mg PO DAILY  
7.  Vitamin B Complex 1 CAP PO DAILY  
8.  Warfarin 5 mg PO DAILY16  
9. HELD- Furosemide 40 mg PO DAILY  This medication was held. Do 
not restart Furosemide until you have an appointment with Dr. 
___.
10. HELD- Valsartan 80 mg PO DAILY  This medication was held. Do 
not restart Valsartan until you have an appointment with Dr. 
___.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
CONGESTIVE HEART FAILURE

SECONDARY DIAGNOSIS
===================
HYPOMAGNESEMIA
ATRIAL FIBRILLATION

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___

___ was a pleasure taking care of you at ___ 
___. 

Why was I hospitalized?
- you felt dizzy and your family was concerned about you

What happened while I was in the hospital?
- you were given some fluids for hydration
- you had your kidney function and heart monitored
- you were seen by our physical therapists

What should I do when I go home?
- You should follow up with your primary care doctor, ___ 
at the scheduled appointment time. Dr. ___ will call 
you with an earlier appointment if one is available. We will fax 
over our discharge paperwork to his office.
- You should stop taking lasix and losartan until you see Dr. 
___.
- Please weigh yourself everyday and make an appt with Dr. ___ 
___ you notice you are gaining more than 3 lbs from your normal 
weight (dry weight). 

We wish you all the best,

Your ___ Team

 
Followup Instructions:
___